US09062028B2
Step B. 8-Bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine
The title compound was prepared using a procedure analogous to bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline except that 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one was replaced with 8-bromo-2H-benzo[b][1,4]oxazin-3(4H)-one. LCMS, [M+H]+=214.0. 1H NMR (400 MHz, CDCl3) δ 6.90 (dd, J=7.9, 1.5 Hz, 1H), 6.63 (t, J=7.9 Hz, 1H), 6.53 (dd, J=7.9, 1.5 Hz, 1H), 4.33-4.39 (m, 2H), 3.42-3.48 (m, 2H).

reactant | bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline | BrC1C2CNC=3C=CC=CC3C21 | C10H10BrN
reactant | 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | BrC=1C=2C3C(C(NC2C=CC1)=O)C3 | C10H8BrNO
reactant | 8-bromo-2H-benzo[b][1,4]oxazin-3(4H)-one | BrC1=CC=CC2=C1OCC(N2)=O | C8H6BrNO2
product | 8-Bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine | BrC1=CC=CC2=C1OCCN2 | C8H8BrNO
